US05616586
9-Bromo-5-(5-tetrazolylcarbamoylmethyl)-6,7-dihydro-1H, 5H-pyrido[1,2,3-de]quinoxaline-2,3-dione
A procedure similar to that described in Example 51 was carried out with 9-bromo-5-carboxymethyl-6,7-dihydro-1H, 5H-pyrido[1,2,3-de]quinoxaline-2,3-dione (170 mg, 0.5 mmol) and aminotetrazole (50 mg, 0.59 mmol) to give 170 mg of the title compound (84%): mp 246°~247° C.; 1H NMR (270 MHz, DMSO-d6) δ12.12 (bs, 1H), 12.08 (s, 1H), 7.24 (d, 1H, J=2 Hz), 7.17 (d, 1H, J=2 Hz), 5.19~5.28 (m, 1H), 3.01 (ddd, 1H, J=17.1, 13.5, 4.5 Hz), 2.84 (dm, 1H, J=17.1 Hz), 2.66~2.75 (m, 2H), 2.12 (dm, 1H, J=13.5 Hz), 1.83~1.97 (m, 1H).

reactant | 9-bromo-5-carboxymethyl-6,7-dihydro-1H, 5H-pyrido[1,2,3-de]quinoxaline-2,3-dione | 0.5 mmol, 170 mg | BrC=1C=C2C=3N(C(C(NC3C1)=O)=O)C(CC2)CC(=O)O | C13H11BrN2O4
reactant | aminotetrazole | 0.59 mmol, 50 mg | NC1=NN=NN1 | CH3N5
product | 9-Bromo-5-(5-tetrazolylcarbamoylmethyl)-6,7-dihydro-1H, 5H-pyrido[1,2,3-de]quinoxaline-2,3-dione | 170 mg, 84% | BrC=1C=C2C=3N(C(C(NC3C1)=O)=O)C(CC2)CC(NC2=NN=NN2)=O | C14H12BrN7O3
